US05808095
(±)-3-(5-Chloro-2-methoxyphenyl)-3-fluoro-1, 3-dihydro-6-(trifluoromethyl)-2H-indol-2-one
A 250-mL 3-necked round-bottomed flask, equipped with a stir bar and thermocouple was charged with 5-chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)-phenyl]benzeneacetic acid, methyl ester (12.5 g, 29.64 mmol) and dissolved in THF (50 mL). Tetrabutylammonium chloride (0.84 g, 3.01 mmol) was dissolved in water (50 mL) and added to the THF solution. The reaction mixture was heated to about 60° C. and sodium dithionite (24.0 g, 118 mmol) was added portion wise as a solid over 75 minutes while stirring vigorously. After 5 minutes HPLC analysis showed that the reaction was complete. The reaction mixture was cooled to room temperature and the layers were separated. The aqueous phase was extracted with ethyl acetate (50 mL). The combined organic layers were treated with 1 N methanolic HCI (15 mL) and heated to 55° C. for a few minutes. HPLC analysis showed that the cyclization was complete. THF and methanol were removed by concentrating on a rotary evaporator and the resultant residue was dissolved in ethyl acetate (100 mL) and hexane (100 mL). The organic layer was washed with 1 N NaOH (2×50 mL), 1 N HCI (2×50 mL), water (2×50 mL), saturated sodium chloride solution (50 mL), and dried over MgSO4. The solution was then diluted with hexane (100 mL), treated with activated charcoal (5.0 g), heated to about 60° C. for 5 minutes, cooled to room temperature, filtered through Celite, and concentrated on a rotary evaporator to afford 10.54 g (99%) of crude product as a foam. This material was dissolved in ethanol (20 mL) and heated to reflux and water was slowly added (10 mL). Preferably, a seed crystal of the title compound was added resulting in crystallization of the product at about 75° C. The material was stirred for 16 hours at room temperature and then filtered, washed with 1:1 ethanol/water (40 mL), air and vacuum dried to afford 7.77 g of the title compound (73% yield, 97.5% by HPLC) as a white crystalline solid.

reactant | 5-chloro-α-fluoro-2-methoxy-α-[2-nitro-4-(trifluoromethyl)-phenyl]benzeneacetic acid, methyl ester | 29.64 mmol, 12.5 g | ClC=1C=CC(=C(C1)C(C(=O)OC)(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])F)OC | C17H12ClF4NO5
reactant | sodium dithionite | 118 mmol, 24.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Tetrabutylammonium chloride | 3.01 mmol, 0.84 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (±)-3-(5-Chloro-2-methoxyphenyl)-3-fluoro-1, 3-dihydro-6-(trifluoromethyl)-2H-indol-2-one | ClC=1C=CC(=C(C1)C1(C(NC2=CC(=CC=C12)C(F)(F)F)=O)F)OC | C16H10ClF4NO2
